US04990504
Preparation of N-Benzyl-4-(hydroxymethyl)-azetidine-2-carboxylic acid ethyl ester
This compound is obtained, as the result of a concomitant transesterification, when NaBH4 reduction is applied directly to cis-N-benzylazetidine-2,4-dicarboxylic acid dibenzyl ester. To 104 mg (0.25 mmol) of cis-N-benzylazetidine-2,4-dicarboxylic acid dibenzyl ester in 2.5 ml of absolute ethanol is added, at r.t. in small portions over a period of 1 h, 45 mg (1.25 mmol) of NaBH4. Quenching with 50 μl of acetic acid is followed by filtration through a medium porosity sintered glass funnel, repeated washing of the solids with methylene chloride, and evaporation. The residue is chromatographed on SiO2 ; EtOAc/hexanes (1:3) elutes benzyl alcohol, EtOAc/hexanes (1:1) the product. The product is a colorless oil obtained in 39.8 mg (64%) yield. 1H NMR (CDCl3): δ7.35-7.25 (m, 5H), 4.09 (q, 2H, J=7), 3.84, 3.67 (AB system, 2H, J=12.5), 3.66 (t, 1H, J=8.5), 3.38 (tt, 1H, J=8, 2.5), 3.25-3.15 (m, 2H), 2.81 (br., 1H), 2.37-2.21 (m, 2H), 1.20 (t, 3H, J=7). IR (neat): 3432, 3063, 2928, 2870, 1736, 1495, 1455, 1194, 1096, 1034, 961, 739, 704 cm-1.

reactant | cis-N-benzylazetidine-2,4-dicarboxylic acid dibenzyl ester | C(C1=CC=CC=C1)OC(=O)[C@@H]1N([C@@H](C1)C(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1 | C26H25NO4
reactant | cis-N-benzylazetidine-2,4-dicarboxylic acid dibenzyl ester | 0.25 mmol, 104 mg | C(C1=CC=CC=C1)OC(=O)[C@@H]1N([C@@H](C1)C(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1 | C26H25NO4
reactant | NaBH4 | 1.25 mmol, 45 mg | [BH4-].[Na+]
solvent | ethanol | 2.5 ml | C(C)O | C2H6O
product | N-Benzyl-4-(hydroxymethyl)-azetidine-2-carboxylic acid ethyl ester | C(C)OC(=O)C1N(C(C1)CO)CC1=CC=CC=C1 | C14H19NO3
